US04371537
(4-((5-(methylsulfonyl)-2-pyridinyl)oxy)phenyl)phenylmethanone
To 5.5 g of p-hydroxybenzophenone in a 25 ml THF/25 ml DMSO mixture was added 3.6 g of t-BuOK and then 6.51 g of 2,5-bis(methylsulfonyl)pyridine, and the resulting mixture was heated at 62° C. for 11/2 hrs. The reaction mixture was cooled and added to approximately 3 to 4 volumes of water and stirred. The crude product which formed was filtered and dried. Recrystallization from ethanol gave purified (4-((5-(methylsulfonyl)-2-pyridinyl)oxy)phenyl)phenylmethanone, m.p. 130°-131.5° C.

reactant | p-hydroxybenzophenone | 5.5 g | OC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C13H10O2
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | t-BuOK | 3.6 g | CC(C)(C)[O-].[K+]
reactant | 2,5-bis(methylsulfonyl)pyridine | 6.51 g | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
solvent | water | O | H2O
product | (4-((5-(methylsulfonyl)-2-pyridinyl)oxy)phenyl)phenylmethanone | CS(=O)(=O)C=1C=CC(=NC1)OC1=CC=C(C=C1)C(=O)C1=CC=CC=C1 | C19H15NO4S
